US07572808B2
B. Preparation of 8-(4-chlorophenyl)-2-(methoxymethyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a degassed mixture of 7-bromo-8-(4-chlorophenyl)-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (300 mg, 0.81 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (332 mg, 1.62 mmol) and K2CO3 (280 mg, 2.0 mmol) in 1,4-dioxane (10 mL) and H2O (3.0 mL) under argon at 20° C. was added Pd(PPh3)4 (47 mg, 0.043 mmol). The reaction mixture was refluxed for 15 h under argon and then cooled to 20° C. The reaction mixture was diluted with H2O (10 mL) and extracted with EtOAc (3×20 mL). The combined organic extract was washed with saturated aqueous NaHCO3 solution (20 mL), then brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by silica gel column chromatography eluting with a 0-60% gradient of EtOAc in hexanes to obtain the title compound as a yellow solid (241 mg, 0.65 mmol). MS: [M+H]+=367.2. 1H NMR (400 MHz, CDCl3) δ 3.45 (s, 3H), 5.32 (s, 2H), 6.59 (d, J=7.03 Hz, 1H), 7.04 (d, J=6.15 Hz, 2H), 7.18-7.23 (m, 2H), 7.26-7.30 (m, 2H), 7.85 (d, J=7.47 Hz, 1H), 8.53 (d, J=6.15 Hz, 2H).

reactant | 7-bromo-8-(4-chlorophenyl)-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.81 mmol, 300 mg | BrC1=C(C=2N(C=C1)C(N(N2)COC)=O)C2=CC=C(C=C2)Cl | C14H11BrClN3O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.62 mmol, 332 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | K2CO3 | 2.0 mmol, 280 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3.0 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.043 mmol, 47 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(4-chlorophenyl)-2-(methoxymethyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.65 mmol, 241 mg | ClC1=CC=C(C=C1)C=1C=2N(C=CC1C1=CC=NC=C1)C(N(N2)COC)=O | C19H15ClN4O2
